US05266556
To a suspension of iron powder (5 g) in acetic acid (10 g), 1-(3-chloro-5-trifluoromethylpyridin-2-yl)-6-nitroindazole [Compound No. 3] (3 g) and water (10 g) were added, and the resultant mixture was refluxed for 3 hours. After completion of the reaction, the reaction mixture was filtered through celite, and the filtrate was poured into water and extracted with ethyl acetate. The extract was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography with hexane-ethyl acetate (4:1) to give 1-(3-chloro-5-trifluoromethylpyridin-2-yl)-6-aminoindazole (1.8 g).

reactant | 1-(3-chloro-5-trifluoromethylpyridin-2-yl)-6-nitroindazole | 3 g | ClC=1C(=NC=C(C1)C(F)(F)F)N1N=CC2=CC=C(C=C12)[N+](=O)[O-] | C13H6ClF3N4O2
reactant | water | 10 g | O | H2O
solvent | acetic acid | 10 g | C(C)(=O)O | C2H4O2
catalyst | iron | 5 g | [Fe] | Fe
product | 1-(3-chloro-5-trifluoromethylpyridin-2-yl)-6-aminoindazole | 1.8 g | ClC=1C(=NC=C(C1)C(F)(F)F)N1N=CC2=CC=C(C=C12)N | C13H8ClF3N4
